US04474792
A mixture of 7.1 g. (0.05 mole) of 3-methylsalicylic acid, 23.1 g. (0.1 mole) of silver oxide and 25 ml. of methyl iodide in 150 ml. of N,N-dimethylformamide was stirred at 25° C. for 16 hours, then filtered. The filtrate was evaporated to provide a residue which was hydrolyzed by heating at 50° C. in an equivolume mixture of ethanol and 6N sodium hydroxide solution. The resulting mixture was acidified and filtered. The filtrate was evaporated, and the residue dissolved in base and treated with decolorizing charcoal. Acidification provided white solid 2-methoxy-3-methylbenzoic acid, m.p. 70°-75° C.

reactant | 3-methylsalicylic acid | 0.05 mole | CC1=C(C(C(=O)O)=CC=C1)O | C8H8O3
reactant | methyl iodide | CI | CH3I
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 6N | [OH-].[Na+]
catalyst | silver oxide | 0.1 mole | [Ag]=O
solvent | ethanol | C(C)O | C2H6O
product | 2-methoxy-3-methylbenzoic acid | COC1=C(C(=O)O)C=CC=C1C | C9H10O3
